US04267176
A mixture of S-methyl 2-(4-formamidopyridin-2-yl)thioglyoxylate (1.07 g.), methanol (20 ml.) and 1 N aqueous solution of sodium hydroxide (5.7 ml.) was stirred for 50 minutes at ambient temperature to give a solutions containing 2-(4-formamidopyridin-2-yl)glyoxylic acid. To the solution was added O-methylhydroxylamine hydrochloride (438 mg.), and the mixture was stirred for an hour at ambient temperature. After the removal of the solvent from the reaction mixture, to the residue was added water (5 ml.), and the mixture was washed with ethyl acetate and then water was distilled off. The remaining water in the residue was azeotropically removed with ethanol and benzene in turn to give a pale brown powder of 2-(4-formamidopyridin-2-yl)-2-methoxyiminoacetic acid (syn isomer) (960 mg.).

reactant | S-methyl 2-(4-formamidopyridin-2-yl)thioglyoxylate | 1.07 g | C(=O)NC1=CC(=NC=C1)C(C(=O)SC)=O | C9H8N2O3S
reactant | sodium hydroxide | 5.7 ml | [OH-].[Na+]
reactant | 2-(4-formamidopyridin-2-yl)glyoxylic acid | C(=O)NC1=CC(=NC=C1)C(C(=O)O)=O | C8H6N2O4
reactant | O-methylhydroxylamine hydrochloride | 438 mg | Cl.CON
solvent | methanol | 20 ml | CO | CH4O
product | 2-(4-formamidopyridin-2-yl)-2-methoxyiminoacetic acid | 960 mg | C(=O)NC1=CC(=NC=C1)C(C(=O)O)=NOC | C9H9N3O4
